US08957069B2
1-(4-Fluorophenyl)-4-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 5-bromo-7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran (542 mg, 2.0 mmol) synthesized in Reference example 83 and 1-(4-fluorophenyl)piperazine (720 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 21 to synthesize the title compound 417 mg (yield 56%). Melting point was 114 to 116° C. (ethanol-water).

reactant | 5-bromo-7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran | 2.0 mmol, 542 mg | BrC=1C(=C(C2=C(CC(O2)C)C1C)OC)C | C12H15BrO2
reactant | 1-(4-fluorophenyl)piperazine | 4.0 mmol, 720 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-(4-Fluorophenyl)-4-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 417 mg, yield 56% | FC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)OC)C | C22H27FN2O2
